US07566699B2
1-(2-Amino-2-methylpropionyl)-4-(benzyloxycarbonyl)piperazine hydrochloride
To a solution of 2-(tert-butoxycarbonylamino)-2-methylpropionate (4.06 g) in N,N-dimethylformamide (40 mL) were added 1-(benzyloxycarbonyl)piperazine (6.6 g), 1-hydroxybenzotriazole (3.24 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (7.67 g) and triethylamine (11.2 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water, 1 mol/L aqueous sodium hydroxide solution, water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. To the residue was added 4 mol/L hydrochloric acid (1,4-dioxane solution, 25 mL), and the mixture was stirred at room temperature for 4 hours. To the reaction mixture was added diethyl ether (50 mL), and the insoluble material was collected by filtration. The collected solid was washed with diethyl ether and dried under reduced pressure to give the title compound (4.65 g).

reactant | 2-(tert-butoxycarbonylamino)-2-methylpropionate | 4.06 g | C(C)(C)(C)OC(=O)NC(C(=O)[O-])(C)C
reactant | 1-(benzyloxycarbonyl)piperazine | 6.6 g | C(C1=CC=CC=C1)OC(=O)N1CCNCC1 | C12H16N2O2
reactant | 1-hydroxybenzotriazole | 3.24 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 7.67 g | Cl.C(C)N=C=NCCCN(C)C
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 11.2 mL | C(C)N(CC)CC | C6H15N
product | 1-(2-Amino-2-methylpropionyl)-4-(benzyloxycarbonyl)piperazine hydrochloride | 4.65 g | Cl.NC(C(=O)N1CCN(CC1)C(=O)OCC1=CC=CC=C1)(C)C | InChI=1S/C16H23N3O3.ClH/c1-16(2,17)14(20)18-8-10-19(11-9-18)15(21)22-12-13-6-4-3-5-7-13;/h3-7H,8-12,17H2,1-2H3;1H
